US07419984B2
Following the method described in Example 81, 4-bromo-1-chloro-2-iodo-benzene, isopropylmagnesium chloride and trimethylborate provided 5-bromo-2-chloro-phenylboronic acid (36% yield).

reactant | 4-bromo-1-chloro-2-iodo-benzene | BrC1=CC(=C(C=C1)Cl)I | C6H3BrClI
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | trimethylborate | COB(OC)OC | C3H9BO3
product | 5-bromo-2-chloro-phenylboronic acid | 36% yield | BrC=1C=CC(=C(C1)B(O)O)Cl | C6H5BBrClO2
